US05889022
7-(2-Dimethylaminoethoxy)-6-methoxyquinoline (D18)
3-(2-Dimethylaminoethoxy)-4-methoxyaniline (D14, 200 mg) was treated with glycerol (133 mg) and iodine (5 mg) and to this stirring mixture was added dropwise, concentrated sulphuric acid (267 mg). After the initial exothermic reaction had subsided, the mixture was heated at 180° C. for 1.5 hr. The reaction mixture was cooled and partitioned between 40% aqueous sodium hydroxide and ethyl acetate, the organic phase was dried (Na2SO4) and the solvent evaporated under reduced pressure to leave the title compound as a brown oil (19 mg, 51%).

reactant | 3-(2-Dimethylaminoethoxy)-4-methoxyaniline | 200 mg | CN(CCOC=1C=C(N)C=CC1OC)C | C11H18N2O2
reactant | iodine | 5 mg | II | I2
reactant | sulphuric acid | 267 mg | S(O)(O)(=O)=O | H2O4S
reactant | glycerol | 133 mg | OCC(O)CO | C3H8O3
product | 7-(2-Dimethylaminoethoxy)-6-methoxyquinoline | 19 mg, 51% | CN(CCOC1=C(C=C2C=CC=NC2=C1)OC)C | C14H18N2O2
